US06150351
To a mixture of benzhydryl 7β-(2-phenylacetamido)-3-(4-thiocarbamoylmethylthiazol-2-yl)thio-3-cephem-4-carboxylate (1.46 g), anisole (1.46 ml) and dichloromethane (4.38 ml) was added trifluoroacetic acid (2.92 ml) at 15° C. After stirring at room temperature for 1 hour, the solution was poured into diisopropyl ether. The resulting precipitate was collected by filtration, added to a mixture of tetrahydrofuran, ethyl acetate and water, and adjusted to pH 7.5 with an aqueous sodium hydrogen carbonate. The separated aqueous solution was washed with ethyl acetate, adjusted to pH 3.0 with 1N-hydrochloric acid and extracted with tetrahydrofuran. The tetrahydrofuran solution was washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to preparative HPLC (eluent: pH 3 buffer/acetonitrile) to give 7β-(2-phenylacetamido)-3-(4-thiocarbamoylmethylthiazol-2-yl)thio-3-cephem-4-carboxylic acid (62 mg).

reactant | benzhydryl 7β-(2-phenylacetamido)-3-(4-thiocarbamoylmethylthiazol-2-yl)thio-3-cephem-4-carboxylate | 1.46 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(N)=S)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H28N4O3S4
reactant | anisole | 1.46 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2.92 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 4.38 ml | ClCCl | CH2Cl2
product | 7β-(2-phenylacetamido)-3-(4-thiocarbamoylmethylthiazol-2-yl)thio-3-cephem-4-carboxylic acid | 62 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(N)=S)C(=S)O)C1=O | C20H18N4O3S4
